US07132544B2
Synthesis of 4-(4-Fluorophenyl)-2-bromo-1-(3-phenylpropyl)-5-(4-pyridyl)-imidazole
A reaction vessel was charged with POCl3 (1500.0 g, 9.78 mol). Br2 (184.9 g, 1.157 mol) was then added in one portion at ambient temperature. The reaction mixture was cooled to 10° C. and then PBr3 (313.0 g, 1,157 mol) was added over 25 min. under vigorous stirring. The temperature of the reaction mixture increased to 20° C. After addition, stirring was continued for another 1.5 h, maintaining the temperature in the range of 10–20° C. The formed PBr5 precipitated as a yellow solid. The reaction mixture was warmed to 25° C. and 1,3-dihydro-1-(3-phenylpropyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-imidazol-2-one (150.0 g 0,386 mol) was added in one portion. After addition, the reaction mixture was heated to about 30° C. and stirring was continued for 24 h. The suspension changed to a dark solution. The POCl3 was distilled off under vacuum at a temperature below 35° C., to yield a viscous oil. This oil was added to a mixture of ethyl acetate (1000 g) and aqueous ammonia (25 w %, 1000 g) over about 1.25 hours, with cooling. The resulting two phases were separated, the aqueous phase was extracted with ethyl acetate (500 g) and the combined organic phases were washed with water (200 g) at 70° C. The organic phase was concentrated to approximately 30% of the original volume. To the warmed reaction mixture, was then added triethylamine (600 g) and an additional amount of the solvent (about 150 g) was removed in vacuo, resulting in the crystallization of the desired product. The reaction mixture was cooled to 0° C. and stirred for 12 h. The product was filtered off, washed with triethylamine (50 g) and dried at 40° C. under vacuum, to yield the crude product.

reactant | POCl3 | 9.78 mol, 1500.0 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Br2 | 1.157 mol, 184.9 g | BrBr | Br2
reactant | PBr3 | 1,157 mol, 313.0 g | P(Br)(Br)Br | Br3P
reactant | 1,3-dihydro-1-(3-phenylpropyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-imidazol-2-one | 0,386 mol, 150.0 g | C1(=CC=CC=C1)CCCN1C(NC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F)=O | C23H20FN3O
reactant | ammonia | 1000 g | N | H3N
solvent | ethyl acetate | 1000 g | C(C)(=O)OCC | C4H8O2
product | 4-(4-Fluorophenyl)-2-bromo-1-(3-phenylpropyl)-5-(4-pyridyl)-imidazole | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)CCCC1=CC=CC=C1)Br | C23H19BrFN3
